US05723464
A solution of (R)-4-methyl-3-pyridin-2-yl-[1,2,3]-oxathiazolidine-2,2-dioxide (4.04 g 0.019 moles) and 4-piperazinoindole (3.80 g 0.019 moles) in acetonitrile (200 ml) was heated to 60° C. for 0.5 h then evaporated in vacuo. The residue was taken up into dilute HCl (100 ml), warmed to 60° C. for 0.5 h, cooled, washed with ethyl acetate (2×100 ml), made basic with potassium carbonate, extracted into dichioromethane (3×100 ml), dried (MgSO4) then evaporated in vacuo to give a brown glass. This was purified on a silica column eluting with 10% propan-2-ol in dichloromethane to give (R)-1-(4-indolyl)-4-[2-methyl-2-(2-pyridinylamino)ethyl]piperazine (4.3 g) as a clear glass.

reactant | (R)-4-methyl-3-pyridin-2-yl-[1,2,3]-oxathiazolidine-2,2-dioxide | 0.019 moles, 4.04 g | C[C@H]1N(S(OC1)(=O)=O)C1=NC=CC=C1 | C8H10N2O3S
reactant | 4-piperazinoindole | 0.019 moles, 3.80 g | N1(CCNCC1)C1=C2C=CNC2=CC=C1 | C12H15N3
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | (R)-1-(4-indolyl)-4-[2-methyl-2-(2-pyridinylamino)ethyl]piperazine | 4.3 g | N1C=CC2=C(C=CC=C12)N1CCN(CC1)C[C@H](NC1=NC=CC=C1)C | C20H25N5
